US06605620B1
Synthesis of 4-[N-(2,3-Dimethoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-[N-(2,3-Dimethoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine Dihydrochloride (113 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (59 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as light yellow powder after converting a free base to a trihydrochloride.

reactant | 4-[N-(2,3-Dimethoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine Dihydrochloride | 113 mg | Cl.Cl.COC1=C(C=CC=C1OC)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCNCC1
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 59 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(2,3-Dimethoxyphenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.COC1=C(C=CC=C1OC)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C43H50N4O8.3ClH/c1-48-36-11-9-10-35(41(36)53-6)47(27-29-13-17-45-34(21-29)31-24-39(51-4)43(55-8)40(25-31)52-5)32-14-18-46(19-15-32)26-28-12-16-44-33(20-28)30-22-37(49-2)42(54-7)38(23-30)50-3;;;/h9-13,16-17,20-25,32H,14-15,18-19,26-27H2,1-8H3;3*1H
